US04582837
8-(2'-Methoxy-4'-dimethylaminosulfonyl-phenyl)-purine hydrochloride
Prepared analogously to Example 51 from 2-methoxy-4-chlorosulfonyl-benzoic acid, aqueous dimethylamine solution, and 4,5-diamino-pyrimidine. The hydrochloride was recrystallized from ethanol/water (4:1).

reactant | 2-methoxy-4-chlorosulfonyl-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)Cl | C8H7ClO5S
reactant | dimethylamine | CNC | C2H7N
reactant | 4,5-diamino-pyrimidine | NC1=NC=NC=C1N | C4H6N4
product | 8-(2'-Methoxy-4'-dimethylaminosulfonyl-phenyl)-purine hydrochloride | Cl.COC1=C(C=CC(=C1)S(=O)(=O)N(C)C)C1=NC2=NC=NC=C2N1 | InChI=1S/C14H15N5O3S.ClH/c1-19(2)23(20,21)9-4-5-10(12(6-9)22-3)13-17-11-7-15-8-16-14(11)18-13;/h4-8H,1-3H3,(H,15,16,17,18);1H
